US06831175B2
5-[(5-bromopyridin-3-yl)oxy]isoquinoline
A sealed tube was charged with 5-hydroxyisoquinoline (0.15 g, 1.03 mmol), 3,5-dibromopyridine (0.24 g, 1.03 mmol), potassium carbonate (0.27 g, 2.0 mmol) and DMF (4 mL). The reaction was heated to 240° C. for 10 minutes in a personal chemistry microwave. The reaction was partitioned between water and ethyl acetate. The aqueous layer was extracted twice with ethyl acetate. The combined extracts were concentrated and the residue was purified by flash column chromatography on silica gel with 2:1 ethyl acetate/hexanes to provide the desired product (0.071 g, 23%).

reactant | 5-hydroxyisoquinoline | 1.03 mmol, 0.15 g | OC1=C2C=CN=CC2=CC=C1 | C9H7NO
reactant | 3,5-dibromopyridine | 1.03 mmol, 0.24 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | potassium carbonate | 2.0 mmol, 0.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 5-[(5-bromopyridin-3-yl)oxy]isoquinoline | 0.071 g, 23% | BrC=1C=C(C=NC1)OC1=C2C=CN=CC2=CC=C1 | C14H9BrN2O
